US06093714
The 3:1 mixture (650 mg, 1.39 mmol) of ethyl 1-(4-methoxybenzyl)-4-(4-acetylamino-2-nitrobenzoyl)-1,2,3-triazole-5-carboxylate (b-1) and ethyl 1-(4-methoxybenzyl)-5-(4-acetylamino-2-nitrobenzoyl)-1,2,3-triazole-4-carboxylate (b-2) prepared in the above step (b) was dissolved in ethyl acetate (29 ml), 10% palladium on carbon (65 mg) was added to the solution, and the mixture was stirred under a hydrogen atmosphere at room temperature for four days. The reaction mixture was filtered through Celite, the filtrate was concentrated under reduced pressure, and the resultant precipitate was collected by filtration to give a 3:1 mixture (565.5 mg, 93%) of ethyl 4-(2-amino-4-acetylaminobenzoyl)-1-(4-methoxybenzyl)-1,2,3-triazole-5-carboxylate (c-1) and ethyl 5-(2-amino-4-acetylaminobenzoyl)-1-(4-methoxybenzyl)-1,2,3-triazole-5-carboxylate (c-2).

reactant | ethyl 1-(4-methoxybenzyl)-4-(4-acetylamino-2-nitrobenzoyl)-1,2,3-triazole-5-carboxylate | 1.39 mmol, 650 mg | COC1=CC=C(CN2N=NC(=C2C(=O)OCC)C(C2=C(C=C(C=C2)NC(C)=O)[N+](=O)[O-])=O)C=C1 | C22H21N5O7
reactant | ethyl 1-(4-methoxybenzyl)-5-(4-acetylamino-2-nitrobenzoyl)-1,2,3-triazole-4-carboxylate | COC1=CC=C(CN2N=NC(=C2C(C2=C(C=C(C=C2)NC(C)=O)[N+](=O)[O-])=O)C(=O)OCC)C=C1 | C22H21N5O7
solvent | ethyl acetate | 29 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 65 mg | [Pd] | Pd
product | ethyl 4-(2-amino-4-acetylaminobenzoyl)-1-(4-methoxybenzyl)-1,2,3-triazole-5-carboxylate | 565.5 mg, 93% | NC1=C(C(=O)C=2N=NN(C2C(=O)OCC)CC2=CC=C(C=C2)OC)C=CC(=C1)NC(C)=O | C22H23N5O5
